US06933321B2
3-Chloro-2′,6′-difluorobiphenyl-4-carbonitrile (EM-4977)
In an oven-dried flask purged with argon, a solution of 4-bromo-2-chlorobenzonitrile (268 mg, 1.238 mmol), 2,6-difluorophenylboronic acid (293 mg, 1.857 mmol), Pd(PPh3)4 (143 mg, 0.124 mmol) in toluene (10 mL) and EtOH (10 mL), and saturated solution of NaHCO3 in water (1 mL) were refluxed while sterring for 5 h. The reaction mixture was poured into water and extracted 3 times with CH2Cl2. The organic layer was dried over magnesium sulfate, filtered and concentrated under reduced pressure. The crude compound was then purified by flash cromatography (diethyl ether-hexanes) to provide EM-4977 (45 mg, 15%) as a white solid. IR (KBr): 3072, 2237, 1626, 1602, 1578, 1468, 1386, 1231, 1058, 996, 888, 844, 783, 730, 693, 622, 516 cm−1. 1H RMN (400 MHz, acetone d6) δ 7.23 (t, J=8 Hz, 2H), 7.60 (m, 1H), 7.73 (ddd, J=1.3, 1.4 & 8 Hz, 1H), 7.88 (d, J=1.3 Hz, 1H), 8.07 (d, J=8 Hz, 1H) ppm. 13C RMN (75 MHz, CDCl3) δ 112.06 (d, J=25 Hz), 112.14, 112.85, 115.83, 129.15, 130.80 (t, J=11 Hz), 131.73, 133.63, 135.40, 136.70, 159.63 (dd, J=7 & 250 Hz) ppm. GC/NCI/MS (m/e); 249 (M−, 100).

reactant | 4-bromo-2-chlorobenzonitrile | 1.238 mmol, 268 mg | BrC1=CC(=C(C#N)C=C1)Cl | C7H3BrClN
reactant | 2,6-difluorophenylboronic acid | 1.857 mmol, 293 mg | FC1=C(C(=CC=C1)F)B(O)O | C6H5BF2O2
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
reactant | KBr | [K+].[Br-]
solvent | toluene | 10 mL | C1(=CC=CC=C1)C | C7H8
solvent | EtOH | 10 mL | CCO | C2H6O
solvent | water | 1 mL | O | H2O
catalyst | Pd(PPh3)4 | 0.124 mmol, 143 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 3-Chloro-2′,6′-difluorobiphenyl-4-carbonitrile | ClC=1C=C(C=CC1C#N)C1=C(C=CC=C1F)F | C13H6ClF2N
